US09255090B2
Synthesis of [3-(5-Fluoro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-isopropoxy-phenyl]-acetic acid ethyl ester (C22H26NO3F, MW=371.19)
To a solution of 8-(5-ethoxycarbonylmethyl-2-isopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (1.65 g, 3.17 mmol, 1 eq.) in EtOH (15.5 mL) under N2, palladium on activated carbon (10 wt. %, 165 mg) was added. The flask was carefully evacuated and refilled with H2 (3×). The black suspension was stirred at r.t. under an H2-atmosphere for 24 hours and further at 50° C. for 18 hours. The black suspension was filtered through Celite. The Celite was rinsed with EtOH. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, AcOEt to (AcOEt+10% NEt3) to yield the title compound as a colorless oil.

reactant | 8-(5-ethoxycarbonylmethyl-2-isopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 3.17 mmol, 1.65 g, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=CC(=C1)CC(=O)OCC)OC(C)C | C30H32FNO5
solvent | EtOH | 15.5 mL | CCO | C2H6O
catalyst | palladium on activated carbon | 165 mg | [Pd] | Pd
product | [3-(5-Fluoro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-isopropoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC(C)C)C=1C=CC(=C2CCNCC12)F)=O | C22H26FNO3
